US09127164B2
(3) 3-Acetamidyl-9-aminoacridine
To a 25 mL rbf equipped with a nitrogen bubbler were charged 3,9-diaminoacridine (50 mg, 0.24 mmol) and anhydrous DCM (2 mL). To the resulting red suspension was added acetic anhydride (25 μL, 0.26 mmol) followed by triethylamine (37 μL, 0.26 mmol). The reaction mixture was stirred overnight at room temperature under a nitrogen atmosphere. LCMS showed incomplete reaction but only formation of expected product. Starting material was not really soluble in DCM. Pyridine (0.5 mL) was thus added and the mixture stirred overnight. LCMS still showed incomplete reaction. A further portion of acetic anhydride (25 μL, 0.26 nmol) was added and the reaction mixture was stirred at room temperature over three days. LCMS showed reaction completion.

reactant | 3,9-diaminoacridine | 0.24 mmol, 50 mg | NC=1C=CC2=C(C3=CC=CC=C3N=C2C1)N | C13H11N3
reactant | acetic anhydride | 0.26 mmol, 25 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.26 mmol, 37 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-Acetamidyl-9-aminoacridine | C(C)(=O)NC=1C=CC2=C(C3=CC=CC=C3N=C2C1)N | C15H13N3O
